US09340547B2
b) 1-Amino-3-methyl-N-o-tolyl-1H-pyrrole-2-carboxamide
3-Methyl-N-o-tolyl-1H-pyrrole-2-carboxamide (1.5 g, 7.00 mmol) was dissolved in 60 mL of DMF. 294 mg (7.35 mmol) of sodium hydride (60 wt % dispersion in mineral oil) were added and the reaction mixture was stirred at room temperature for 1 hour. Then O-(mesitylsulfonyl)hydroxylamine (1.658 g, 7.70 mmol) was added and the reaction mixture was stirred for 30 minutes. The solvent was evaporated to dryness and the crude product was purified by flash chromatography (0 to 50% heptane/AcOEt) to give 1.17 g (73% yield) of the title compound as a yellow solid.

reactant | 3-Methyl-N-o-tolyl-1H-pyrrole-2-carboxamide | 7.00 mmol, 1.5 g | CC1=C(NC=C1)C(=O)NC1=C(C=CC=C1)C | C13H14N2O
reactant | sodium hydride | 7.35 mmol, 294 mg | [H-].[Na+]
reactant | O-(mesitylsulfonyl)hydroxylamine | 7.70 mmol, 1.658 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1-Amino-3-methyl-N-o-tolyl-1H-pyrrole-2-carboxamide | 1.17 g, 73% yield | NN1C(=C(C=C1)C)C(=O)NC1=C(C=CC=C1)C | C13H15N3O
